US04568700
Chloromethyl (+) Menthylether
3.0 g (0.1 mole) of paraformaldehyde were stirred at 0°-5° C. with 15.6 g (0.1 mole) of (+) Menthol in 1,1,2-trichloroethane and HCl gas was passed for 2 hours. The product was further diluted to 1M concentration.

reactant | paraformaldehyde | 0.1 mole, 3.0 g | C=O | CH2O
reactant | (+) Menthol | 0.1 mole, 15.6 g | CC1CC[C@@H]([C@H](C1)O)C(C)C | C10H20O
reactant | 1,1,2-trichloroethane | ClC(CCl)Cl | C2H3Cl3
solvent | HCl | Cl | ClH
product | Chloromethyl (+) Menthylether | ClCOC1CC(CCC1C(C)C)C | C11H21ClO
